US04018931
The reaction of 1,4-dimethyl-2-hydroxymethylimidazole (2.5 g.) with cysteamine hydrochloride (2.5 g.) in aqueous hydrobromic acid by the method described in Example 1 (i) (a) gave 1,4-dimethyl-2-[(2-aminoethyl)thiomethyl]imidazole dihydrobromide (6.2 g.) m.p. 161°-163° (from isopropyl alcohol-methoanol).

reactant | 1,4-dimethyl-2-hydroxymethylimidazole | 2.5 g | CN1C(=NC(=C1)C)CO | C6H10N2O
reactant | cysteamine hydrochloride | 2.5 g | Cl.NCCS
reactant | hydrobromic acid | Br | BrH
product | 1,4-dimethyl-2-[(2-aminoethyl)thiomethyl]imidazole dihydrobromide | 6.2 g | Br.Br.CN1C(=NC(=C1)C)CSCCN | InChI=1S/C8H15N3S.2BrH/c1-7-5-11(2)8(10-7)6-12-4-3-9;;/h5H,3-4,6,9H2,1-2H3;2*1H
